US05324725
A solution of 25 g of 2-methylquinoline in 40 ml of ether was added slowly to a mixture of 70 ml of a 1.6M solution of n-butyllithium in hexane and 40 ml of diethyl ether. The reaction mixture was stirred at room temperature, then it was cooled to about 5° C. and a solution of 28.9 g of n-hexyl bromide in 10 ml of ether was slowly added. The reaction mixture was then warmed to room temperature and stirred at room temperature for 2 hours. For working-up, the reaction mixture was added to 500 ml of water and extracted with ether. The organic phase was washed with slightly acidified water, dried and evaporated. The crude product obtained was purified by chromatography on a silica gel column using dichloromethane as the eluent. 31 g of oily crude 2-n-heptylquinoline were obtained.

reactant | 2-methylquinoline | 25 g | CC1=NC2=CC=CC=C2C=C1 | C10H9N
reactant | n-butyllithium | C(CCC)[Li]
reactant | n-hexyl bromide | 28.9 g | C(CCCCC)Br | C6H13Br
reactant | water | 500 ml | O | H2O
solvent | ether | 40 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
solvent | ether | 10 ml | CCOCC | C4H10O
product | 2-n-heptylquinoline | 31 g | C(CCCCCC)C1=NC2=CC=CC=C2C=C1 | C16H21N
